US07323475B2
a. 5-(4-Fluoro-phenoxy)-isoindole-1,3-dione
A mixture of 5-Nitro-isoindole-1,3-dione (177 g, 0.904 mol), 4-fluoro-phenol (128 g, 1.13 mol), K2CO3 (419 g, 3 mol) and DMF (2 l) was refluxed with stirring for 3 h before the mixture was poured into water (12 l) with stirring. The precipitate formed was isolated by vacuum filtration, washed with water (8 l) and dried in vacuo at 70° C. to give the title compound as a tan powder (43.2 g); 1H NMR (CDCl3) δ=7.79 (d, 1H), 7.57 (br s, 1H), 7.01 to 7.29 (m, 6H).

reactant | 5-Nitro-isoindole-1,3-dione | 0.904 mol, 177 g | [N+](=O)([O-])C=1C=C2C(NC(C2=CC1)=O)=O | C8H4N2O4
reactant | 4-fluoro-phenol | 1.13 mol, 128 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | K2CO3 | 3 mol, 419 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 2 l | CN(C)C=O | C3H7NO
solvent | water | 12 l | O | H2O
product | 5-(4-Fluoro-phenoxy)-isoindole-1,3-dione | 43.2 g | FC1=CC=C(OC=2C=C3C(NC(C3=CC2)=O)=O)C=C1 | C14H8FNO3
